US08357711B2
Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}benzoate
Methyl 4-(chlorosulfonyl)benzoate (Preparation 2, 8.0 g, 34 mmol, 1 eq) was added portionwise to a solution of 2-amino-5-chlorothiazole hydrochloride (23.3 g, 136 mmol, 4 eq) in pyridine (80 ml) and the reaction mixture stirred at room temperature for 1 hour. The solution was added to a stirred solution of 6M HCl (300 ml) and the resulting precipitate collected by filtration and washed with water. The title compound was obtained as a dark brown solid (3.35 g, 0.01 mmol, 30%).

reactant | Methyl 4-(chlorosulfonyl)benzoate | 34 mmol, 8.0 g, 1 eq | ClS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C8H7ClO4S
reactant | 2-amino-5-chlorothiazole hydrochloride | 136 mmol, 23.3 g, 4 eq | Cl.NC=1SC(=CN1)Cl
reactant | HCl | 6M, 300 ml | Cl | ClH
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 4-{[(5-chloro-1,3-thiazol-2-yl)amino]sulfonyl}benzoate | ClC1=CN=C(S1)NS(=O)(=O)C1=CC=C(C(=O)OC)C=C1 | C11H9ClN2O4S2
